US07304081B2
(1R)-1′-({1-[2-Fluoro-4-(2-oxopyrrolidin-1-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one
A mixture of (1R)-1′-{[1-(4-bromo-2-fluorophenyl)cyclopropyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one (10 mg, 0.00002 mol, prepared by methods analogous to those used for the synthesis of example 238), 2-pyrrolidinone (2.4 mg, 0.000028 mol), copper(I) iodide (0.2 mg, 0.000001 mol), trans-1,2-cyclohexanediamine (0.28 μL, 0.0000023 mol), and potassium carbonate (6.4 mg, 0.000046 mol) in toluene (0.5 mL) and N,N-dimethylformamide (0.5 mL) was microwave irradiated at 110° C. for 30 minutes. The crude product was purified with prep-HPLC. LCMS: m/z 435.2 (M+H+); 457.1 (M+Na+).

reactant | (1R)-1′-{[1-(4-bromo-2-fluorophenyl)cyclopropyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | BrC1=CC(=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O)F | C21H17BrFNO3
reactant | 2-pyrrolidinone | 0.000028 mol, 2.4 mg | N1C(CCC1)=O | C4H7NO
reactant | trans-1,2-cyclohexanediamine | 0.0000023 mol, 0.28 μL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | potassium carbonate | 0.000046 mol, 6.4 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
catalyst | copper(I) iodide | 0.000001 mol, 0.2 mg | [Cu]I
product | (1R)-1′-({1-[2-Fluoro-4-(2-oxopyrrolidin-1-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | FC1=C(C=CC(=C1)N1C(CCC1)=O)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C25H23FN2O4
